US09102625B2
To a solution of tert-butyl-3-iodobenzylcarbamate (166 mg, 0.50 mmol) in Dioxane (1.5 mL) was added Pd(PPh3)4 (58 mg, 0.05 mmol) and 2-(tributylstannyl)pyridine (275 mg, 0.75 mmol). After stirring at 100° C. for 2 h, it was concentrated and the residue was purified by column chromatography to give tert-butyl-3-(pyridin-2-yl)benzylcarbamate (111 mg).

reactant | tert-butyl-3-iodobenzylcarbamate | 0.50 mmol, 166 mg | C(C)(C)(C)OC(NCC1=CC(=CC=C1)I)=O | C12H16INO2
reactant | 2-(tributylstannyl)pyridine | 0.75 mmol, 275 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | Dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl-3-(pyridin-2-yl)benzylcarbamate | 111 mg | C(C)(C)(C)OC(NCC1=CC(=CC=C1)C1=NC=CC=C1)=O | C17H20N2O2
